US06197729B1
a) 8-(2-chloro-1,2,2-trifluoroethylidene)-1,4-dioxaspiro[4.5]decane
At −100° C., 17.2 g of chlorotrifluoroethylene were condensed into 120 ml of tetrahydrofuran and 80 ml of diethyl ether. Over a period of 30 minutes, 84 ml of a 16 molar solution of n-BuLi in hexane were added dropwise at a temperature between −90° C. and −100° C. 18.8 g of 1,4-dioxaspiro[4.5]decane were added and the mixture was stirred at −60° C. for 1 h. The reaction solution was poured into aqueous ammonium chloride and extracted with diethyl ether and the combined organic phases were dried over magnesium sulfate and concentrated. The residue was taken up in 200 ml of pyrimidine and, at −30° C., mixed with 71 g of thionyl chloride. The reaction solution was slowly warmed to 0° C. and stirred for another 1.5 hours at this temperature. The reaction solution was poured onto ice and extracted with methylene chloride and the organic phase was dried over magnesium sulfate and concentrated. The residue was chromatographed over silica gel (petroleum ether:ethyl acetate 4:1), to give the title product as a yellow oil.

reactant | chlorotrifluoroethylene | 17.2 g | ClC(=C(F)F)F | C2ClF3
reactant | n-BuLi | [Li]CCCC
reactant | 1,4-dioxaspiro[4.5]decane | 18.8 g | O1CCOC12CCCCC2 | C8H14O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | 80 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 8-(2-chloro-1,2,2-trifluoroethylidene)-1,4-dioxaspiro[4.5]decane | ClC(C(F)=C1CCC2(OCCO2)CC1)(F)F | C10H12ClF3O2
